US06974802B2
a) Synthesis of 2′,3′-Dideoxy-3′-fluoro-5′-O-[3-(N-CBZ-L-valyloxymethyl)-4-stearoyloxy-butoxycarbonyl]guanosine.
To a solution of 2′,3′-dideoxy-3′-fluoroguanosine (269 mg, 1.0 mmole in absolute DMF were added pyridine (198 mg, 2.5 mmole) and a solution of 3-(N-CBZ-L-valyloxymethyl)-4-stearoyloxy-butoxycarbonyl chloride (750 mg, 1.1 mmole) in 5 ml dichloromethane. The mixture was stirred for three days at room temperature. The solution was evaporated under reduced pressure and the product was isolated by silica gel column chromatography. Yield: 120 mg

reactant | 2′,3′-dideoxy-3′-fluoroguanosine | F[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12 | C10H12FN5O3
reactant | pyridine | 2.5 mmole, 198 mg | N1=CC=CC=C1 | C5H5N
reactant | 3-(N-CBZ-L-valyloxymethyl)-4-stearoyloxy-butoxycarbonyl chloride | 1.1 mmole, 750 mg | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CCOC(=O)Cl)COC(CCCCCCCCCCCCCCCCC)=O | C37H60ClNO8
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2′,3′-Dideoxy-3′-fluoro-5′-O-[3-(N-CBZ-L-valyloxymethyl)-4-stearoyloxy-butoxycarbonyl]guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(=O)OCCC(COC(CCCCCCCCCCCCCCCCC)=O)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)N1C=NC=2C(=O)NC(N)=NC12 | C47H71FN6O11
